US07893048B2
2-Bromo-1-(2,3-dihydro-benzofuran-6-yl)-ethanone
Br2 (0.36 ml, 7.01 mmol) was added dropwise to a stirring solution of 1-(2,3-dihydro-benzofuran-6-yl)-ethanone (1.13 g, 6.97 mmol) in MeOH (20 mL) held at 0° C. The reaction mixture was slowly allowed to reach room temperature. After 3 h, the reaction was quenched by the addition of NaHCO3 (aq, saturated)(until pH=8). Most of the methanol was removed under reduced pressure and the residue was extracted twice with EtOAc (2×20 mL). The organic extracts were pooled, washed with brine (10 mL), dried over MgSO4 and concentrated under reduced pressure. The residue was purified by preparative HPLC using a gradient of 40-70% MeCN in a 0.1M ammonium acetate buffer as eluent. The fractions containing the desired product were pooled and most of the MeCN was removed under reduced pressure. The residue was extracted with EtOAc (2×20 mL) and the combined organic layers was washed with brine, dried over MgSO4 and concentrated. The obtained was finely washed MeOH to give the title compound.

reactant | Br2 | 7.01 mmol, 0.36 ml | BrBr | Br2
reactant | 1-(2,3-dihydro-benzofuran-6-yl)-ethanone | 6.97 mmol, 1.13 g | O1CCC2=C1C=C(C=C2)C(C)=O | C10H10O2
solvent | MeOH | 20 mL | CO | CH4O
product | 2-Bromo-1-(2,3-dihydro-benzofuran-6-yl)-ethanone | BrCC(=O)C1=CC2=C(CCO2)C=C1 | C10H9BrO2
